US06380218B1
2-Fluoro-5-hydroxy-benzonitrile
The compound of Preparation 200 was prepared according to the procedure of Preparation 199 substituting the corresponding ether for 2-Fluoro-5-methoxy-benzonitrile. The duration of reaction was between 1 and 24 hours.

reactant | 2-Fluoro-5-methoxy-benzonitrile | FC1=C(C#N)C=C(C=C1)OC | C8H6FNO
solvent | ether | CCOCC | C4H10O
product | 2-Fluoro-5-hydroxy-benzonitrile | FC1=C(C#N)C=C(C=C1)O | C7H4FNO
